US06420549B1
2′/3′-O-Allyl-N6-benzoyl Adenosine
2′/3′-O-allyl adenosine (15.19 g, 51.1 mmol) was dried over P2O5 under high vacuum overnight at 40° C. It was then dissolved in anhydrous pyridine (504.6 mL) under inert atmosphere. Trimethylchlorosilane (32.02 mL, 252.3 mmol) was added at 0° C. and the reaction mixture was stirred for 1 hr under inert atmosphere. Then benzoyl chloride (29.4 mL, 252.3 mmol) was added dropwise. once the addition of benzoyl chloride was over, the reaction mixture was brought to room temperature and stirred for 4 hrs. Then the reaction mixture was brought to 0° C. in an ice bath. Water (10.9 mL) was added and the reaction mixture was stirred for 30 minutes. Then NH4OH (100.0 mL, 30% aqueous solution w/w) was added, keeping the reaction mixture at 0° C. and stirring for an additional 1 hr. Solvent evaporated residue partitioned between water and ether. Product precipitates as an oil, which was then chromatographed (5% MeOH in CH2Cl2) to get the title compound as a white foam (12.67 g, 62%).

reactant | 3′-O-allyl adenosine | 51.1 mmol, 15.19 g | C(C=C)O[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C=NC=2C(N)=NC=NC12)O | C13H17N5O4
reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | Trimethylchlorosilane | 252.3 mmol, 32.02 mL | C[Si](Cl)(C)C | C3H9ClSi
reactant | benzoyl chloride | 252.3 mmol, 29.4 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NH4OH | 100.0 mL | [NH4+].[OH-]
solvent | pyridine | 504.6 mL | N1=CC=CC=C1 | C5H5N
solvent | Water | 10.9 mL | O | H2O
product | 3′-O-Allyl-N6-benzoyl Adenosine | 12.67 g, 62% | C(C=C)O[C@H]1[C@H]([C@@H](O[C@@H]1CO)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12)O | C20H21N5O5
